US05763635
6-(2-methyl-1,3-dioxolan-2-yl)3,4-dihydro-4,4-dimethylnaphthalen-1(2H)-one (Compound D15)
A solution of 1.80 g (8.34 mmol) of a 1:5 mixture of 3,4-dihydro-4,4-dimethyl-7-acetyl-naphthalen-1(2H)-one (Compound D14a); and 3,4-dihydro-4,4-dimethyl-6-acetyl-naphthalen- 1 (2H) -one (Compound D14b) in 50 mL benzene was combined with 517.7 mg (8.34 mmol) of ethylene glycol and 20.0 mg (0.11 mmol) of p-toluenesulfonic acid monohydrate. The resulting solution was heated to reflux for 18 h, cooled to room temperature, and concentrated under reduced pressure. The title compound was isolated by column chromatography (10% EtOAc - hexanes) as a colorless oil.

reactant | 3,4-dihydro-4,4-dimethyl-7-acetyl-naphthalen-1(2H)-one | CC1(CCC(C2=CC(=CC=C12)C(C)=O)=O)C | C14H16O2
reactant | 3,4-dihydro-4,4-dimethyl-6-acetyl-naphthalen- 1 (2H) -one | CC1(CCC(C2=CC=C(C=C12)C(C)=O)=O)C | C14H16O2
reactant | ethylene glycol | 8.34 mmol, 517.7 mg | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.11 mmol, 20.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 6-(2-methyl-1,3-dioxolan-2-yl)3,4-dihydro-4,4-dimethylnaphthalen-1(2H)-one | CC1(OCCO1)C=1C=C2C(CCC(C2=CC1)=O)(C)C | C16H20O3
